US07074800B1
4-(4-Chloro-2-fluorophenoxy)-6-methoxy-7-(3-(4-methylpiperazin-1-yl)propoxy)quinazoline (2.6 g, 5.6 mmol) was treated with 2.0 N aqueous hydrochloric acid (45 ml) and the mixture stirred at 95° C. for 2 hours. The mixture was cooled, basified by the addition of solid sodium hydrogen carbonate and the water removed by azeotroping with toluene. The residue was purified by silica column chromatography eluting with dichloromethane/methanol/0.880 aqueous ammonia (50/8/1) to give 6-methoxy-7-(3-(4-methylpiperazin-1-yl)propoxy)-3,4-dihydroquinazolin-4-one (1.8 g, 96%).

reactant | 4-(4-Chloro-2-fluorophenoxy)-6-methoxy-7-(3-(4-methylpiperazin-1-yl)propoxy)quinazoline | 5.6 mmol, 2.6 g | ClC1=CC(=C(OC2=NC=NC3=CC(=C(C=C23)OC)OCCCN2CCN(CC2)C)C=C1)F | C23H26ClFN4O3
reactant | hydrochloric acid | 2.0 N, 45 ml | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | 6-methoxy-7-(3-(4-methylpiperazin-1-yl)propoxy)-3,4-dihydroquinazolin-4-one | 1.8 g, 96% | COC=1C=C2C(NC=NC2=CC1OCCCN1CCN(CC1)C)=O | C17H24N4O3
